US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-cyclooctyl-2-cyclooctylimino-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 5.8 g of 1,3-dicyclooctylthiourea were reacted according to the prescription made in Example 12 and worked up according to the prescription of Example 42. Colorless solid body, decomposition beginning at 118° C, γC=N 1600 cm-1.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-dicyclooctylthiourea | 5.8 g | C1(CCCCCCC1)NC(=S)NC1CCCCCCC1 | C17H32N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-cyclooctyl-2-cyclooctylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CCCCCCC1)C1CCCCCCC1)O)S(N)(=O)=O | InChI=1S/C25H38ClN3O3S2.ClH/c26-22-16-15-19(17-23(22)34(27,31)32)25(30)18-33-24(28-20-11-7-3-1-4-8-12-20)29(25)21-13-9-5-2-6-10-14-21;/h15-17,20-21,30H,1-14,18H2,(H2,27,31,32);1H
